US05681839
4-(4-Methoxybenzyl)cyclohexanone (10.25 g) was heated at reflux in toluene (500 ml) containing pyrrolidine (16 ml) and toluene-4-sulphonic acid (0.1 g). Water in the condensate was collected in a Dean and Stark apparatus. After 2 hours the solvent was removed by distillation until the reaction volume was approximately 100 ml. Ethanol (250 ml) and methacrylonitrile (20 ml) was added and the mixture heated at reflux for 16 hours, after which the solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate and washed with 1M citric acid and saturated sodium carbonate solution. The organic phase was dried (MgSO4) and evaporated under reduced pressure to give 2-(2-cyanopropyl)-4-(4-methoxybenzyl)cyclohexanone (10.2 g).

reactant | 4-(4-Methoxybenzyl)cyclohexanone | 10.25 g | COC1=CC=C(CC2CCC(CC2)=O)C=C1 | C14H18O2
reactant | pyrrolidine | 16 ml | N1CCCC1 | C4H9N
reactant | toluene-4-sulphonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-cyanopropyl)-4-(4-methoxybenzyl)cyclohexanone | 10.2 g | C(#N)C(CC1C(CCC(C1)CC1=CC=C(C=C1)OC)=O)C | C18H23NO2
